US07696229B2
NaH (26 mg, 1.07 mmol) was added in several batches to a solution of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carbonitrile (200 mg, 0.76 mmol) in DMF (2 mL) at 0-5° C., and the mixture was maintained for 1 hour at room temperature. Benzenesulfonyl chloride (222 mg, 1.24 mmol) was then added, and the resulting solution was maintained at room temperature for an additional 4 hours. The mixture was filtered, and the filter cake was washed with ethanol (2×10 mL) and diethylether (2×10 mL) to afford 250 mg (86%) of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indole-5-carbonitrile as a white solid. 1H NMR (DMSO) δ 8.41 (s, 1H), 8.14 (d, 2H), 8.07 (d, 2H), 7.78 (d, 1H), 7.71 (d, 2H), 7.61 (t, 1H), 6.35 (s, 1H), 3.79 (2H), 3.34 (s, 2H), 2.80-2.87 (m, 5H).

reactant | NaH | 1.07 mmol, 26 mg | [H-].[Na+]
reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carbonitrile | 0.76 mmol, 200 mg | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)C#N | C15H15N3
reactant | Benzenesulfonyl chloride | 1.24 mmol, 222 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indole-5-carbonitrile | 250 mg, 86% | CN1CCC(=CC1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=CC=C1 | C21H19N3O2S
